US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-phenyl-4-(4-pyridin-2-yl-piperazin-1-yl)-piperidin-1-yl]-methanone
The title compound, MS: m/e=563.3 (M+H+), was prepared in accordance with the general method of example 59 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone and 2-chloropyridine.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-phenyl-4-(4-pyridin-2-yl-piperazin-1-yl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCN(CC1)C1=NC=CC=C1)C1=CC=CC=C1)(F)F | C29H28F6N4O
